US08217066B2
Synthesis of 1-(4′-{3-Methyl-4-[2-(1-phenyl-ethoxy)-ethyl]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid (Compound 14)
Prepared according to the procedure described in Example 14, Step 4, using 1-{4′-[4-(2-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester and (1-bromoethyl)benzene.

reactant | 1-{4′-[4-(2-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CCO | C24H25NO4
reactant | (1-bromoethyl)benzene | BrC(C)C1=CC=CC=C1 | C8H9Br
product | 1-(4′-{3-Methyl-4-[2-(1-phenyl-ethoxy)-ethyl]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid | CC1=NOC(=C1CCOC(C)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C30H29NO4
